US06878713B2
Ethyl chloroformate (3.0 g, 26.7 mmol) was added to a stirred solution of 1-benzyl-3-methyl-4-piperidinone (2.0 g, 9.85 mmol) in benzene (30 ml) at ambient temperature. The obtained reaction mixture was refluxed with stirring for 6 hr and concentrated to dryness to give 1-carbethoxy-3-methyl-4-piperidone as oil. Yield 1.4 g (77%), C9H15NO3, m/z 186 (M+1).

reactant | Ethyl chloroformate | 26.7 mmol, 3.0 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-benzyl-3-methyl-4-piperidinone | 9.85 mmol, 2.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-carbethoxy-3-methyl-4-piperidone | C(=O)(OCC)N1CC(C(CC1)=O)C | C9H15NO3
